US07435823B2
Preparation of 4-(2-nitro-4-(trifluoromethyl)phenyl)thiomorpholine
To a solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (7.00 g, 33.48 mmol) in THF (250 ml) at RT was added thiomorpholine (3.45 g, 33.48 mmol) and sodium bicarbonate (3.66 g, 43.52 mmol). The vessel was purged with nitrogen and stirred at RT for 48 h. After removal of solvent under reduced pressure, the mixture was taken up in EtOAc and filtered. The organics were washed with water, then brine and dried with magnesium sulfate. Filtration and concentration provided the title compound as a bright orange solid. MS m/z: 293.1 (M+H+); calc MW=292.28.

reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | 33.48 mmol, 7.00 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | thiomorpholine | 33.48 mmol, 3.45 g | N1CCSCC1 | C4H9NS
reactant | sodium bicarbonate | 43.52 mmol, 3.66 g | C([O-])(O)=O.[Na+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-(2-nitro-4-(trifluoromethyl)phenyl)thiomorpholine | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCSCC1 | C11H11F3N2O2S
